US09353066B2
A mixture of N-(3-bromo-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine (70 mg, 0.211 mmol), (3-ethoxyphenyl)boronic acid (70.1 mg, 0.422 mmol), PdCl2(dppf)-CH2Cl2 adduct (34.4 mg, 0.042 mmol), aqueous sodium carbonate (2 M, 211 μL, 0.422 mmol), and 2-methyltetrahydrofuran (1054 μl) was heated to 60° C. for 14 hours. Upon cooling to room temperature, Si-Dimercaptotriazine (222 mg, 0.126 mmol) and acetonitrile (3 mL) were added to reaction mixture and stirred for 4 hours at room temperature. The reaction mixture was filtered and concentrated in vacuo. The residue was purified by mass triggered reverse phase HPLC (57-91% acetonitrile in water+0.1% formic acid) to afford N-(3′-ethoxy-5-methylbiphenyl-3-yl)-4-(trifluoromethyl)pyrimidin-2-amine MS ESI calc'd. for C20H19F3N3O [M+H]+ 374, found 374. 1H NMR (600 MHz, DMSO) δ 10.17 (s, 1H), 8.79 (d, J=4.8 Hz, 1H), 7.89 (s, 1H), 7.48 (s, 1H), 7.32 (t, J=7.9 Hz, 1H), 7.23 (d, J=4.8 Hz, 1H), 7.14 (d, J=7.8 Hz, 1H), 7.12 (s, 1H), 7.09 (d, J=2.0 Hz, 1H), 6.88 (dd, J=2.2 Hz, 8.1 Hz, 1H), 4.05 (t, J=7.0 Hz, 2H), 2.32 (s, 3H), 1.32 (t, J=7.0 Hz, 3H).

reactant | N-(3-bromo-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine | 0.211 mmol, 70 mg | BrC=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C12H9BrF3N3
reactant | (3-ethoxyphenyl)boronic acid | 0.422 mmol, 70.1 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | sodium carbonate | 0.422 mmol, 2 M, 211 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methyltetrahydrofuran | 1054 μl | CC1OCCC1 | C5H10O
catalyst | PdCl2(dppf) CH2Cl2 | 0.042 mmol, 34.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-(3′-ethoxy-5-methylbiphenyl-3-yl)-4-(trifluoromethyl)pyrimidin-2-amine | C(C)OC=1C=C(C=CC1)C1=CC(=CC(=C1)C)NC1=NC=CC(=N1)C(F)(F)F | C20H18F3N3O
